US06140330
A solution of o-isopropylphenol (39.5 g), potassium carbonate (40 g) and ethyl α-bromoacetate (40 ml) in dimethylformamide (300 ml) is heated with stirring at 80° C. for 8 hours. To the mixture is added water, and the mixture is extracted with ethyl acetate. The extract is washed with water, dried, and concentrated under reduced pressure to remove the solvent. The residue thus obtained is dissolved in a solution of sodium hydroxide (20 g) in water (300 ml) and ethanol (200 ml), and the mixture is refluxed for 1.5 hour. After cooling, the mixture is acidified with conc. hydrochloric acid, and the precipitated crystals are collected by filtration to give α-(2-isopropylphenoxy)acetic acid (37 g).

reactant | o-isopropylphenol | 39.5 g | C(C)(C)C1=C(C=CC=C1)O | C9H12O
reactant | potassium carbonate | 40 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl α-bromoacetate | 40 ml | BrCC(=O)OCC | C4H7BrO2
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
solvent | sodium hydroxide | 20 g | [OH-].[Na+]
solvent | water | 300 ml | O | H2O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | α-(2-isopropylphenoxy)acetic acid | 37 g | C(C)(C)C1=C(OCC(=O)O)C=CC=C1 | C11H14O3
